US08389511B2
tert-Butyl (3R)-3-[(4-{[1,1-dimethyl-2-(octyloxy)-2-oxoethyl]thio}-2-methyl-5-nitrobenzoyl)(isopropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (3R)-3-[(4-chloro-2-methyl-5-nitrobenzoyl)(isopropyl)amino]-piperidine-1-carboxylate (5 g) in dimethylsulfoxide (55 ml) were added potassium carbonate (4.7 g), magnesium bromide.diethyl etherate (3.5 g), lithium sulfide (0.78 g), and the mixture was stirred at room temperature. Two hours later, to the reaction solution was added octyl 2-bromoisobutyrate (4.7 g), and the mixture was stirred at 60° C. for one hour. The reaction mixture was cooled to room temperature, and filtered on celite. To the filtrate was added a saturated aqueous sodium hydrogen carbonate solution (150 ml), and the mixture was extracted twice with ethyl acetate (100 ml). The combined organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=3/1) to give the title compound (4.9 g).

reactant | tert-butyl (3R)-3-[(4-chloro-2-methyl-5-nitrobenzoyl)(isopropyl)amino]-piperidine-1-carboxylate | 5 g | ClC1=CC(=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C=C1[N+](=O)[O-])C | C21H30ClN3O5
reactant | potassium carbonate | 4.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | magnesium bromide | [Br-].[Mg+2].[Br-]
reactant | lithium sulfide | 0.78 g | [S-2].[Li+].[Li+]
reactant | octyl 2-bromoisobutyrate | 4.7 g | BrC(C(=O)OCCCCCCCC)(C)C | C12H23BrO2
solvent | dimethylsulfoxide | 55 ml | CS(=O)C | C2H6OS
product | tert-Butyl (3R)-3-[(4-{[1,1-dimethyl-2-(octyloxy)-2-oxoethyl]thio}-2-methyl-5-nitrobenzoyl)(isopropyl)amino]piperidine-1-carboxylate | 4.9 g | CC(C(=O)OCCCCCCCC)(C)SC1=CC(=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C=C1[N+](=O)[O-])C | C33H53N3O7S
